US07476740B2
(1R and/or 1S)-3-(4-fluoro-phenyl)-8-methyl-8-aza-bicyclo[3.2.1]octane-2-carbaldehyde O-methyl-oxime (10)
The carbaldehyde-oxime obtained above is converted to an alkyl oxime by treatment with a diazoalkane such as diazomethane. Thus 3-(4-fluoro-phenyl)-8-methyl-8-aza-bicyclo[3.2.1]octane-2-carbaldehyde oxime is dissolved in an appropriate alcohol such as methanol or ethanol or an organic solvent such as ethyl acetate and then this solution is cooled in an ice/water bath and then a solution of diazomethane. (excess 1.1-20 equivalents) is added. The reaction mixture should be stirred until the reaction is complete (TLC) and then the desired product isolated by solvent evaporation. The pure product is obtained by crystallization or flash column chromatography.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | 3-(4-fluoro-phenyl)-8-methyl-8-aza-bicyclo[3.2.1]octane-2-carbaldehyde oxime | FC1=CC=C(C=C1)C1C(C2CCC(C1)N2C)C=NO | C15H19FN2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 3-(4-fluoro-phenyl)-8-methyl-8-aza-bicyclo[3.2.1]octane-2-carbaldehyde O-methyl-oxime | CON=CC1C2CCC(CC1C1=CC=C(C=C1)F)N2C | C16H21FN2O
